US06110924
e) Preparation of 5-bromo-5-(4'-phenoxyphenyl)barbituric acid
To a suspension of 5-(4'-phenoxyphenyl)barbituric acid (48 mg)in 0.23 ml of water, cooled at 0° C. and under stirring, are added 23 μl of 48% hydrobromic acid and successively 9 μl of bromine. After 2 hours at room temperature additional 9 μl of bromine are added and stirring is continued for 2 hours. The suspended solid is then filtered and washed with water, to give, after drying under vacuum at 60° C., 57 mg of the product, m.p. 125-127° C.

reactant | 5-(4'-phenoxyphenyl)barbituric acid | 48 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1C(NC(NC1=O)=O)=O | C16H12N2O4
reactant | hydrobromic acid | 23 μl | Br | BrH
reactant | bromine | 9 μl | BrBr | Br2
reactant | bromine | 9 μl | BrBr | Br2
solvent | water | 0.23 ml | O | H2O
product | 5-bromo-5-(4'-phenoxyphenyl)barbituric acid | BrC1(C(NC(NC1=O)=O)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H11BrN2O4
